US06252084B1
A mixture of 1 mL of 1M BBr3/methylene chloride and 0.24 g (0.79 mmol) of 1-hexyl-5-methoxy-2-methyl-1H-indole-3-acetamide in 20 mL of methylene chloride as stirred for 16 hours, diluted with ethyl acetate and washed twice with water. The solution was dried (Na2SO4) and the solvent removed at reduced pressure to give 0.23 g of crude 1-hexyl-5-hydroxy-2-methyl-1H-indole-3-acetamide.

reactant | BBr3 methylene chloride | 1M, 1 mL | B(Br)(Br)Br.C(Cl)Cl
reactant | 1-hexyl-5-methoxy-2-methyl-1H-indole-3-acetamide | 0.79 mmol, 0.24 g | C(CCCCC)N1C(=C(C2=CC(=CC=C12)OC)CC(=O)N)C | C18H26N2O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-hexyl-5-hydroxy-2-methyl-1H-indole-3-acetamide | 0.23 g | C(CCCCC)N1C(=C(C2=CC(=CC=C12)O)CC(=O)N)C | C17H24N2O2
